US03931177
Sodium hydroxide solution (0.2 N) was added to 3-(5-amino-2-hydroxybenzoyl)propionic acid (2.4 g) until all the solid had dissolved. Acetic anhydride (3.0 ml) was quickly added to the solution (pH 10) with vigorous stirring at 10°-15°C, after which the pH reading was in the range 4-5, and stirring was continued for a further 60 minutes. The precipitated solid was collected and washed with water and a second crop was obtained by evaporation of the filtrate and addition of water to the residue. The combined solids were recrystallised from ethanol to give 3-(5-acetamido-2-hydroxybenzoyl)propionic acid (2.2g, 76%), m.p. 205°-206°C.

reactant | Sodium hydroxide | 0.2 N | [OH-].[Na+]
reactant | 3-(5-amino-2-hydroxybenzoyl)propionic acid | 2.4 g | NC=1C=CC(=C(C(=O)CCC(=O)O)C1)O | C10H11NO4
reactant | Acetic anhydride | 3.0 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(5-acetamido-2-hydroxybenzoyl)propionic acid | 2.2g, 76% | C(C)(=O)NC=1C=CC(=C(C(=O)CCC(=O)O)C1)O | C12H13NO5
